Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Unresponsive
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old woman with history of mild dementia, atrial
fibrillation on Coumadin who presents after being found
unresponsive.

History is obtained from ___ report and neurology note. The
patient was in her usual state of health until last night at 
7pm,
when her granddaughter noted expressive language difficulty as
though she was "speaking ragtime". This improved at some time
prior to 10pm, when she was normal again. This morning, she
complained of malaise around 10am and throughout the day
complained of a headache, as well as vomiting. She lay down for 
a
nap at 1pm. Then at 5:30pm, she was found unresponsive by family
members, when EMS was called and she was brought to the ___.

In the ___, she had initial GCS of 5. Initially a code stroke was
activated, however this was canceled when it was discovered she
had a large intraparenchymal hemorrhage by noncontrast head CT.
Subsequently, ___ attending discussed the case with the patient's
granddaughter, who is her healthcare proxy, who confirmed that
the patient was DNR/DNI, and would not want interventional 
heroic
measures. After their discussion, family members requested a
chaplain services and she was made CMO by ___. Request made for
medical service admission while awaiting additional family
members to arrive. A more detailed history than above was
deferred due to this decision making process.

In the ___:

Patient was given:
___ 18:38 IV Morphine Sulfate 2 mg 

Consults:
- Neurosurgery

Vitals on transfer:
 T unable HR 65 BP 166/70 RR 18 SpO2 99% RA 

Upon arrival to the floor, the patient is unresponsive and 
unable
to answer questions.

Review of Systems:
==================
Complete ROS unable to be obtained.
 
Past Medical History:
- Atrial fibrillation on Coumadin
- Dementia

 
Social History:
___
Family History:
Daughter recently died of unknown cause.
 
Physical Exam:
Admission Physical Exam:
========================
VITALS: T unable HR 65 BP 166/70 RR 18 SpO2 99% RA 
General: elderly woman lying in bed with eyes closed, no 
response
to verbal stimuli.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: supple, no nuchal rigidity
Pulmonary: breathing on room air, no tachypnea noted
Cardiac: irregular rhythm
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted
NEURO: Eyes closed, unresponsive to verbal stimuli. Pupils fixed
at 3mm and unreactive. Decerebrate posturing of upper 
extremities
to noxious stimuli. Minimal spontaneous but nonpurposeful
movements of the distal lower extremities.

Discharge Physical Exam:
======================== 
VITALS: 24 HR Data (last updated ___ @ 825)
    Temp: 97.3 (Tm 97.3), BP: 177/87, HR: 71, RR: 20 (___), O2
sat: 99%, O2 delivery: Ra  
Fluid Balance (last updated ___ @ 608) 
  Last 8 hours  Total cumulative -700ml
    IN: Total 0ml
    OUT:  Total 700ml, Urine Amt 700ml
  Last 24 hours  Total cumulative -700ml
    IN: Total 0ml
    OUT:  Total 700ml, Urine Amt 700ml   
General: elderly woman lying in bed with eyes closed, no 
response
to verbal stimuli.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: supple, no nuchal rigidity
Pulmonary: breathing on room air, no tachypnea noted
Cardiac: irregular rhythm
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted
NEURO: Eyes closed, unresponsive to verbal stimuli. Pupils fixed
at 3mm and unreactive. Decerebrate posturing of upper 
extremities
to noxious stimuli. Minimal spontaneous but nonpurposeful
movements of the distal lower extremities.

DEATH EXAM:
No
spontaneous movements were present. There was no response to
verbal or tactile stimuli. Pupils were mid-dilated and fixed. No
breath sounds were appreciated over either lung field. No 
carotid
pulses were palpable. No heart sounds were auscultated over the
precordium. 

 
Pertinent Results:
ADMISSION LABS:
___ 05:45PM BLOOD WBC-6.0 RBC-4.53 Hgb-13.8 Hct-42.3 MCV-93 
MCH-30.5 MCHC-32.6 RDW-14.6 RDWSD-50.3* Plt ___
___ 05:45PM BLOOD ___ PTT-48.0* ___
___ 05:45PM BLOOD Plt ___
___ 05:45PM BLOOD Glucose-151* UreaN-13 Creat-0.8 Na-140 
K-3.8 Cl-99 HCO3-24 AnGap-17
___ 05:45PM BLOOD ALT-31 AST-80* AlkPhos-163* TotBili-0.7
___ 05:45PM BLOOD Albumin-3.3* Calcium-9.1 Phos-3.2 Mg-1.6
___ 05:45PM BLOOD cTropnT-<0.01
___ 05:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:51PM BLOOD Glucose-149* Na-140 K-3.6 Cl-102 
calHCO3-25

DISCHARGE LABS:
NONE 

MICRO:
NONE

IMAGING:
___ CT HEAD WITHOUT CONTRAST:
1. Large intraparenchymal hemorrhage involving the right frontal 
lobe, 
measuring approximately 6.5 cm, with extension into the 
ventricles, and 13 mm 
of leftward midline shift with evidence of subfalcine herniation 
concern for 
early uncal herniation.  There is relative dilation of the left 
temporal horns 
of the lateral ventricles, which could be suggestive of 
developing 
hydrocephalus/entrapment. 
2. Extensive hypodensity in the suboccipital white matter could 
be related to 
extensive small vessel ischemic changes versus transependymal 
flow related 
hydrocephalus. 
  

 
Brief Hospital Course:
___ year old woman with history of mild dementia, atrial 
fibrillation on Coumadin who presents after being found 
unresponsive. On CT patient found to have large intraparenchymal 
hemorrhage. Goals of care discussion had with daughter in ___ and
decision was made to proceed with CMO.

# LARGE INTRAPARENCHYMAL HEMORRHAGE 
Patient found unresponsive and imaging showed a large right 
frontal intraparenchymal
hemorrhage with extension into the ___ ventricle as well as 
hydrocephalus and evidence of herniation. Per Neurology, the 
size and degree of hemorrhage and high ICH score conferred a 
poor prognosis for both survival and neurologic outcome. Goals 
of care discussion was done with ___ physician and daughter and 
decision was made to transition to comfort measures only. The 
patient was given morphine IV prn pain, lorazepam 0.5-2 mg IV 
PRN anxiety/distress, and glycopyrrolate 0.1 mg IV Q6H:PRN 
excess secretions. Family was offered ___ work and ___ 
services.  Patient passed with granddaughter at bedside. HCP 
___ declined autopsy. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Sertraline 25 mg PO DAILY 
2. Mirtazapine 7.5 mg PO QHS 
3. Warfarin 2.5 mg PO DAILY16 
4. TraMADol 50 mg PO Frequency is Unknown 
5. Valsartan 160 mg PO DAILY 
6. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Patient expired 
 
Discharge Condition:
Patient expired 
 
Discharge Instructions:
Patient expired 
 
Followup Instructions:
___